Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
urinary retention
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of CHF (unknown
EF), castrate-resistant prostate cancer s/p radiation (on 
Lupron)
presenting with acute renal failure. The patient was referred
from his PCPs office, where he was seen complaining of low back
pain. His labs were checked and demonstrated acute renal failure
so he was sent to the ___ ER. The patient reports having had
difficulty urinating since last night with only small amounts
coming out. He denies any dysuria, fevers, chills, or nausea. 
The
patient denies any recent medication changes.

REVIEW OF SYSTEMS:  Per HPI, otherwise negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Diagnosed with ___ 3+3 prostate cancer in ___ and treated
with external beam radiation therapy.  At that point, he had a
PSA that was greater than 10 at the initiation of therapy.  He
was also treated with amifostine as part of an experimental 
study
to try to lessen the effects of radiation therapy on the bowel.
- Has been treated with hormonal treatment for approximately the
last ___ years, but the last few PSA levels have shown
consistent rises consistent with castrate-resistant disease as
manifested by a PSA level in ___ that was 9.1, in
___ 6.8, in ___ it was 3.7.  
- Bone Scan ___: Negative
 
PAST MEDICAL HISTORY: 
- CHF (unclear what his EF is)
- Castrate-resistant prostate cancer
- S/p bilateral hip arthroplasty
 
Social History:
___
Family History:
CAD, peptic ulcer disease.
 
Physical Exam:
Admission exam:
VS: 97.8 66 142/70 20 
GENERAL: NAD  
HEENT: NC/AT, EOMI, MMM  
CARDIAC: RRR, normal S1 & S2 
LUNG: clear to auscultation 
ABD: Soft, NT/ND, no rebound or guarding, obese, foley in place.
NEURO: A&O x 3, CN II-XII intact  
SKIN: Warm and dry, without rashes 

Discharge exam:
Vitals: 98.5, 102/57, 74, 18, 97% on RA
Gen: NAD, sitting comfortably in recliner, AAOx3
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, 2+ b/l ___ edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
GU: foley in place draining CYU
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. CNs II-XII intact. MAEE.
Psych: Full range of affect
 
Pertinent Results:
Admission labs:
___ 05:20PM BLOOD WBC-9.2 RBC-2.99* Hgb-9.2* Hct-28.0* 
MCV-94 MCH-30.8 MCHC-32.9 RDW-13.5 RDWSD-46.3 Plt ___
___ 05:20PM BLOOD Glucose-143* UreaN-57* Creat-7.7*# Na-138 
K-4.4 Cl-97 HCO3-19* AnGap-26*
___ 05:20PM BLOOD Calcium-9.0 Phos-5.9* Mg-2.5
___ 07:30AM BLOOD PSA-16.3*
___ 05:26PM BLOOD ___ pO2-44* pCO2-41 pH-7.37 
calTCO2-25 Base XS--1

Discharge labs:
___ 07:50AM BLOOD WBC-9.3 RBC-2.92* Hgb-9.0* Hct-27.6* 
MCV-95 MCH-30.8 MCHC-32.6 RDW-13.2 RDWSD-45.9 Plt ___
___ 07:50AM BLOOD Glucose-121* UreaN-25* Creat-1.5*# Na-140 
K-3.9 Cl-104 HCO3-20* AnGap-20
___ 07:50AM BLOOD Calcium-8.9 Phos-2.8 Mg-2.1

Imaging:
RENAL US
1.  Bilateral mild hydronephrosis.
2.  Massively distended bladder.  Patient was unable to void.  
Consider Foley
catheter placement.  Repeat study can be performed following 
catheterization
if desired.
 
Brief Hospital Course:
Mr. ___ is an ___ with a PMHx of CHF (unknown EF) and 
progressive castrate-resistant prostate cancer,
who presented to ___ with bladder outlet obstruction and ___. 

# Bladder outlet obstruction / Acute kidney injury / 
Hydronephrosis: 
The patient was seen by urology and his outpatient oncologist 
Dr. ___ while in the hospital. It was felt that most likely 
his obstructive uropathy was secondary to enlarging prostate, in 
the setting of rising PSA. A foley catheter was placed with 
subsequent brisk diuresis and improvement in renal function to 
near baseline. He was started on flomax. He will continue his 
foley catheter until seen by urology in follow up in approx ___ 
weeks. Dr. ___ will see the patient as well to discuss 
further prostate cancer management. His renal function and 
electrolytes should be rechecked at follow up. 

# Castrate-resistant prostate cancer: 
Dx in ___. S/p radiation and has been on hormone therapy/Lupron 
for many years. PSA rising in the past year, but his bone scan 
in ___ was negative. Will f/u with Dr. ___.

# Anemia: 
Chronic. Stable. 

# Chronic CHF: 
EF unknown. Patient appeared volume overloaded with prominent ___ 
edema, no pulmonary edema or crackles. His furosemide and 
losartan were held initially due to ARF. These were restarted 
prior to discharge. 

# DM:
Patient was well controlled on insulin sliding scale. 

# HTN:
Home carvedilol was stopped temporarily as BPs were well 
controlled on losartan mono therapy. This should be restarted as 
deemed fit by his outpatient providers.

 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
3. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1. Furosemide 20 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily at bedtime 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Prostate cancer
Acute kidney failure
Obstructive uropathy
Chronic diastolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ for an acute injury to your kidneys 
from bladder outlet obstruction. We feel this is most likely 
related to your prostate. A foley catheter was placed and your 
kidneys improved. You will need to follow up with the urologist 
in approximately ___ weeks for further management of your 
bladder and foley catheter. Dr. ___ like to see you 
after you leave the hospital as well.
Sincerely,
Your ___ care team
 
Followup Instructions:
___